US03953600
In a flask equipped with a stirrer, condenser and nitrogen inlet tube, there is added 90 ml. of anhydrous tetrahydrofuran, 30 ml. of anhydrous dimethylformamide and 9.7 g. (0.05 mole) of 2-phenylbenzimidazole. The resulting system is then blanketed with nitrogen, stirring is initiated and 2.2 g. (0.053 mole) of 57% sodium hydride mineral oil dispersion is added in one portion. The mixture is then heated to 50° for about 2 hours. After cooling to room temperature, a solution of 12.0 g. (0.053 mole) of (±) 1-bromo-3,7-dimethyl-6-octene in 50 ml. of dry tetrahydrofuran is added dropwise. The resulting mixture is stirred overnight at room temperature and the resultant salts are removed by filtration. The filtrate is concentrated in vacuo. The resultant oil is dissolved in chloroform and chromatographed on silica gel using methylenechloride as the eluant to give (±)1-(3,7-dimethyl-6-octen-1-yl)-2-phenylbenzimidazole, NMR (CDCl3) δ0.72-2.18 (16H, complex multiplet, ##EQU1## 4.23 (2H, triplet, J=7cps, CH2N), 5.00 (1H, triplet, J=7cps, HC=C), 7.13-7.95 (9H, multiplet, C6H5 and C6H4). Anal. Calcd. for C23H28N2 :C, 83.1; H, 8.5; N, 8.4. Found:C, 83.3; H, 8.8; N, 8.0.

reactant | 2-phenylbenzimidazole | 0.05 mole | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | sodium hydride | 0.053 mole | [H-].[Na+]
reactant | (±) 1-bromo-3,7-dimethyl-6-octene | 0.053 mole | BrCCC(CCC=C(C)C)C | C10H19Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)1-(3,7-dimethyl-6-octen-1-yl)-2-phenylbenzimidazole | CC(CCN1C(=NC2=C1C=CC=C2)C2=CC=CC=C2)CCC=C(C)C | C23H28N2
